* SMCNR_SE_2st_AMP -- DC / temperature / power bench on TSMC7 BSIM-CMG
* Same closed-loop operating point as tb_ac.cir on the sensing_front_end
* category's temperature sweep; power is the 25 C supply draw.
.include ./tsmc7_models.spice
.include ./netlist.spice

.PARAM supply_voltage = 0.75
.PARAM VCM = 0.1875
.PARAM PARAM_CLOAD = 1e-12
Vvdda vdda 0 'supply_voltage'
Vgnda gnda 0 0

* Differential path, broken by a huge L/C so DC bias is preserved.  Both ends
* of the 1T inductor are seeded: with vout alone the operating point falls
* through gmin/source stepping into the transient fallback and never solves.
Vin signal_in 0 dc 'VCM'
Lfb vout vfb 1T
Cin vfb signal_in 1T
xi1 vdda gnda vfb vin_p vout SMCNR_SE_2st_AMP
Vip vin_p 0 'VCM'
Cload vout 0 'PARAM_CLOAD'
* Internal seeds (rough rail fractions) let the cold end of the temperature
* sweep solve directly instead of through the transient-op fallback.
.nodeset V(vout)=0.1875 V(vfb)=0.1875
.nodeset V(xi1.outp)=0.3375 V(xi1.outn)=0.3375 V(xi1.ibias)=0.3375
.nodeset V(xi1.net53)=0.46875

.measure dc ivdd25 FIND I(Vvdda) AT=25
.measure dc power param='-1*ivdd25*supply_voltage'
.measure dc vout25 FIND V(vout) AT=25
.end
