* 5-stage CMOS ring oscillator — NGSPICE BSIM-CMG (LEVEL=72) ground truth
*
* The reference half of the ring-oscillator gate.
* `tests/simple_circuits/verify_circuit_ring_osc.py` renders this deck per technology and
* scores the oscillation period of `directnet_ring_osc_tran.sp` against it.
* Ground truth is ALWAYS NGSPICE on the identical BSIM-CMG OSDI model
* (AGENTS.md Validation rule).
*
* <TOKEN> placeholders are substituted by tests.common.base
* :: render_reference_deck. <BAKED_LIB> is the merged modelcard with
* L / NFIN / TFIN / DEVTYPE baked in. OSDI devices take the N prefix.
*
* Five stages, 0.5 fF per node. The .tran statement is supplied by the runner.
* The parametric mirror in tests/common/circuit_benchmarks.py sweeps the stage count, so
* it builds its ring programmatically; verify_circuit_sweep_canaries.py holds
* it line-for-line identical to THIS deck at the 5-stage baseline.

.include "<BAKED_LIB>"
.temp 27

Vdd vdd 0 <VDD>

Np0 n1 n5 vdd vdd <PMOS>
Nn0 n1 n5 0   0   <NMOS>
Cl0 n1 0 0.5f

Np1 n2 n1 vdd vdd <PMOS>
Nn1 n2 n1 0   0   <NMOS>
Cl1 n2 0 0.5f

Np2 n3 n2 vdd vdd <PMOS>
Nn2 n3 n2 0   0   <NMOS>
Cl2 n3 0 0.5f

Np3 n4 n3 vdd vdd <PMOS>
Nn3 n4 n3 0   0   <NMOS>
Cl3 n4 0 0.5f

Np4 n5 n4 vdd vdd <PMOS>
Nn4 n5 n4 0   0   <NMOS>
Cl4 n5 0 0.5f

* An alternating seed kicks the loop off its unstable DC point.
.ic v(n1)=0 v(n2)=<VDD> v(n3)=0 v(n4)=<VDD> v(n5)=0

.end
